US07468367B2
Description 11: N-(5-bromo-pyrimidin-2-yl)-N′-methyl-ethane-1,2-diamine
An ice-cooled solution of [2-(5-bromo-pyrimidin-2-ylamino)-ethyl]-methyl-carbamic acid dimethyl-ethyl ester, D10 (2.32 g, 7.0 mol) in dichloromethane (90 ml) was treated with trifluoroacetic acid (10 ml). The reaction mixture was stirred for 2 h at room temperature, under argon then poured onto K2CO3 (excess)/ice. The aqueous layer was separated, washed with dichloromethane (3×) and the combined organics dried (MgSO4) and the solvent removed in vacuo to afford the title compound (1.00 g, 61%).

reactant | [2-(5-bromo-pyrimidin-2-ylamino)-ethyl]-methyl-carbamic acid dimethyl-ethyl ester | CC(C)(C)OC(N(C)CCNC1=NC=C(C=N1)Br)=O | C12H19BrN4O2
reactant | trifluoroacetic acid | 10 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 90 ml | ClCCl | CH2Cl2
product | N-(5-bromo-pyrimidin-2-yl)-N′-methyl-ethane-1,2-diamine | 1.00 g, 61% | BrC=1C=NC(=NC1)NCCNC | C7H11BrN4
